US06281227B1
D. [1-(2-Chloro-quinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-carbamic acid tert-butyl ester
The title compound is prepared from (2-oxopyrrolidin-3-(S)-yl)-carbamic acid tert-butyl ester as described in EXAMPLE 1, Part H using 7-bromomethyl-2-chloro-quinoline in place of 7-bromomethyl-1-chloro-isoquinoline. The crude product is triturated in 20% EtOAc/hexanes and filtered to afford the title compound as a beige solid.

reactant | (2-oxopyrrolidin-3-(S)-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(NCC1)=O)=O | C9H16N2O3
reactant | 7-bromomethyl-2-chloro-quinoline | BrCC1=CC=C2C=CC(=NC2=C1)Cl | C10H7BrClN
product | [1-(2-Chloro-quinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)CC1=CC=C2C=CC(=NC2=C1)Cl)=O)=O | C19H22ClN3O3
